US08648066B2
To 6-isopropyl-5-methylpyrimidin-4-ol (0.25 g, 1.6 mmol) was added neat phosphorous oxychloride (5 mL) and the mixture stirred at 70° C. for 3 h. After cooling to room temperature the solution was concentrated, diluted with water then neutralized by portionwise addition of saturated sodium carbonate solution. The aqueous mixture was extracted with ethyl acetate and the organic solution washed with brine then dried over anhydrous sodium sulfate. Filtration and concentration provided 4-chloro-6-isopropyl-5-methylpyrimidine (30 mg, 11% yield) as a brown oil that was used without further purification. MS (EI) for C8H11ClN2: 170 (MH+).

reactant | 6-isopropyl-5-methylpyrimidin-4-ol | 1.6 mmol, 0.25 g | C(C)(C)C1=C(C(=NC=N1)O)C | C8H12N2O
reactant | phosphorous oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-isopropyl-5-methylpyrimidine | 30 mg, 11% yield | ClC1=NC=NC(=C1C)C(C)C | C8H11ClN2
